US08012976B2
To a stirred mixture of 4-fluorobenzaldehyde (3 g, 20.4 mmol) and anhydrous sodium sulfate (29 g, 20.4 mmol) in anhydrous dichloromethane (200 mL) was added 4-aminoisobenzofuran-1(3H)-one (3.04 g, 24.5 mmol) at 0° C. After the addition, the mixture was stirred at room temperature for 6 days. The mixture was filtered and the cake was washed with dichloromethane (50 mL×3). The filtrate was concentrated to give crude product. The crude product was washed with petroleum ether to give (E)-4-(4-fluorobenzylideneamino)isobenzofuran-1(3H)-one (4.25 g, yield 81%); LC-MS (ESI) m/z: 256 (M+1)+. A mixture of (E)-4-(4-fluorobenzylideneamino)isobenzofuran-1(3H)-one (2.53 g, 10 mmol) and 1-methyl-1H-imidazole-2-carbaldehyde (1.21 g, 11 mmol) in ethyl propionate (50 mL) was cooled to 0° C. Then a solution of sodium ethanoxide in ethanol [sodium (1 g, 44 mmol) in ethanol (30 mL)] was added drop-wise. After the addition, the mixture was stirred at room temperature for 2 hr. The mixture was quenched with water (10 mL) and solvent was removed in vacuum. The residue was dissolved in water, and then extracted with ethyl acetate (100 mL×4). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated to give crude product. The crude product was purified by chromatography (silica gel, petroleum ether/ethyl acetate=10:1 to 1:10) to give ethyl 2-(4-fluorophenyl)-3-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate (210 mg, yield 5%). LC-MS (ESI) m/z: 394 (M+1)+.

reactant | 4-fluorobenzaldehyde | 20.4 mmol, 3 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | sodium sulfate | 20.4 mmol, 29 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-aminoisobenzofuran-1(3H)-one | 24.5 mmol, 3.04 g | NC1=C2COC(C2=CC=C1)=O | C8H7NO2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | (E)-4-(4-fluorobenzylideneamino)isobenzofuran-1(3H)-one | 4.25 g, yield 81% | FC1=CC=C(\C=N\C2=C3COC(C3=CC=C2)=O)C=C1 | C15H10FNO2
